US05356897
A mixture of 4,7-dihydro-6-ethoxycarbonyl-2- (4-fluorophenyl)-3-(pyridin-4-yl)-7-oxopyrazolo [1,5-a ] pyrimidine (946 mg) in sulfuric acid (40% in water, 5 ml) was refluxed for 2 hours. After cooling, the pH of the reaction mixture was adjusted to 5 with an aqueous saturated sodium bicarbonate solution. The crude crystalline was obtained and washed with hot ethanol to give 4,7-dihydro-6-carboxy-2-(4-fluorophenyl)-3-(pyridin-4-yl)-7-oxopyrazolo[1,5-a]pyrimidine (275 mg).

reactant | 4,7-dihydro-6-ethoxycarbonyl-2- (4-fluorophenyl)-3-(pyridin-4-yl)-7-oxopyrazolo [1,5-a ] pyrimidine | 946 mg | C(C)OC(=O)C1=CNC=2N(C1=O)N=C(C2C2=CC=NC=C2)C2=CC=C(C=C2)F | C20H15FN4O3
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | sulfuric acid | 5 ml | S(O)(O)(=O)=O | H2O4S
product | 4,7-dihydro-6-carboxy-2-(4-fluorophenyl)-3-(pyridin-4-yl)-7-oxopyrazolo[1,5-a]pyrimidine | 275 mg | C(=O)(O)C1=CNC=2N(C1=O)N=C(C2C2=CC=NC=C2)C2=CC=C(C=C2)F | C18H11FN4O3
